US04610981
4-Bromo-N-[4-(1H-imidazol-1-yl)butyl]benzenesulfonamide
To a stirred solution of 1.39 g of 1H-imidazole-1-butanamine in 50 ml of dichloromethane at room temperature, covered with an excess of saturated sodium bicarbonate solution was added 2.55 g of 4-bromobenzenesulfonyl chloride. Stirring was continued for 22 hours, then the layers were separated and the organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethanol. The recrystallized material was dissolved in dichloromethane containing 5% ethanol. The solution was passed through a silica gel column. The column was washed twice with 200 ml portions of ethyl acetate, then three times with 200 ml portions of 10% ethanol/ethyl acetate. The 10% ethanol/ethyl acetate cuts were combined and evaporated in vacuo, the residue was dried in vacuo at 50° C. and gave 1.09 g of the compound of the Example as colorless crystals, mp 158°-159° C.

reactant | 1H-imidazole-1-butanamine | 1.39 g | N1(C=NC=C1)CCCCN | C7H13N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 4-bromobenzenesulfonyl chloride | 2.55 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-Bromo-N-[4-(1H-imidazol-1-yl)butyl]benzenesulfonamide | 1.09 g | BrC1=CC=C(C=C1)S(=O)(=O)NCCCCN1C=NC=C1 | C13H16BrN3O2S
